US04200641
A mixture of 21.5 parts of N-(3-chloropropyl)-2-nitrobenzenamine, 22.68 parts of 1-(diphenylmethyl)piperazine, 20 parts of N,N-diethylethanamine and 180 parts of N,N-dimethylacetamide is stirred and heated for 6 hours at 100° C. The reaction mixture is evaporated and the residue is taken up in water. The oily product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from a mixture of 2-propanol, ethanol and 2,2'-oxybispropane. The product is filtered off and dried, yielding 4-(diphenylmethyl)-N-(2-nitrophenyl)-1-piperazinepropanamine hydrochloride; mp. 228° C.

reactant | N-(3-chloropropyl)-2-nitrobenzenamine | ClCCCNC1=C(C=CC=C1)[N+](=O)[O-] | C9H11ClN2O2
reactant | 1-(diphenylmethyl)piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-(diphenylmethyl)-N-(2-nitrophenyl)-1-piperazinepropanamine hydrochloride | Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCCNC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | InChI=1S/C26H30N4O2.ClH/c31-30(32)25-15-8-7-14-24(25)27-16-9-17-28-18-20-29(21-19-28)26(22-10-3-1-4-11-22)23-12-5-2-6-13-23;/h1-8,10-15,26-27H,9,16-21H2;1H
